US07291632B2
Preparation 23. 1-Methyl-4-(N-(2-fluorophenyl)methylamino)piperidine
Mix 1-bromo-2-fluorobenzene (3.50 g), 1-methyl-4-(methylamino)piperidine (2.56 g), Pd2(dba)3 (0.366 g), racemic BINAP (0.498 g) and sodium t-butoxide (2.70 g) in toluene (40 mL) and heat at reflux for two days. Filter through a Celite bed, partition between dichloromethane and saturated aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel column (35 g), using a gradient of dichloromethane-2M NH3 in methanol to give 1.1 g of the title intermediate.

reactant | 1-bromo-2-fluorobenzene | 3.50 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | 1-methyl-4-(methylamino)piperidine | 2.56 g | CN1CCC(CC1)NC | C7H16N2
reactant | BINAP | 0.498 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium t-butoxide | 2.70 g | CC(C)([O-])C.[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.366 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-Methyl-4-(N-(2-fluorophenyl)methylamino)piperidine | 1.1 g | CN1CCC(CC1)NCC1=C(C=CC=C1)F | C13H19FN2
